US07094928B2
Step (d): Preparation of 2-Azido-N-(β-hydroxy-2,5-dimethoxy phenethyl)acetamide.
In a four neck round bottomed flask 32.4 gm (0.11 mole) of 2-azido-N-(β-Oxo-2,5-dimethoxy phenehyl)-acetamide is prepared according to the step (c) and 260 ml methanol is charged and cooled to 0° C. To this 3.24 gm (0.08 mole) sodium boro hydride is added slowly over a period. After completion of the addition, the reaction mass temperature is raised to 10° C. After completion of the reaction, 10 ml of acetic acid is added. Methanol is stripped off under reduced pressure and the residue obtained is extracted with methylene dichloride. Organic layer is washed with water and methylene dichloride is distilled off. The yield was 95%.

reactant | 2-azido-N-(β-Oxo-2,5-dimethoxy phenehyl)-acetamide | 0.11 mole, 32.4 gm | N(=[N+]=[N-])CC(=O)NCC(C1=C(C=CC(=C1)OC)OC)=O | C12H14N4O4
reactant | sodium boro hydride | 0.08 mole, 3.24 gm | [BH4-].[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | Methanol | CO | CH4O
solvent | methanol | 260 ml | CO | CH4O
product | 2-Azido-N-(β-hydroxy-2,5-dimethoxy phenethyl)acetamide | yield was 95% | N(=[N+]=[N-])CC(=O)NCC(C1=C(C=CC(=C1)OC)OC)O | C12H16N4O4
